US09382234B2
A 20 mL vial was charged with 5-chloro-2-methyl-3-((tetrahydro-2H-pyran-4-yl)oxy)benzoic acid (72.0 mg, 0.266 mmol), 3-(aminomethyl)-2,6-dimethylpyridin -4(1H)-one hydrochloride (60.2 mg, 0.319 mmol), EDC (76 mg, 0.399 mmol), HOAt (61.5 mg, 0.399 mmol), N,N-dimethylformamide (3 mL) and N-methylmorpholine (0.351 mL, 3.19 mmol). The reaction was stirred for 16 h, at which time it was added drop-wise to a rapidly stirred solution of saturated NaHCO3 (25 mL) and water (10 mL) and stirred at room temperature 1 h. The solid was collected via vacuum filtration and dried under vacuum. Purification of the residue by reverse phase HPLC (Column: Phenomenex Gemini-NX axia, 30×100, 5μ, C18; Eluent: 20-55% acetonitrile/0.1% formic acid in water, 5 min gradient) gave a sticky, glassy solid. This residue was dissolved with DCM (20 mL) and washed with a saturated NaHCO3 (6 mL) and water (3 mL). The aqueous was extracted with DCM (2×20 mL) and the combined organic layers were filtered through MgSO4 and Na2SO4 and concentrated to give 5-chloro-N-((2,6-dimethyl-4-oxo -1,4-dihydropyridin-3-yl)methyl)-2-methyl-3-((tetrahydro-2H-pyran-4-yl)oxy)benzamide (49 mg, 0.121 mmol, 45.5% yield) as a white powder. 1H NMR (400 MHz, DMSO-d6) δ 11.00 (s, 1H), 8.21 (t, J=4.93 Hz, 1H), 7.15 (d, J=2.02 Hz, 1H), 6.80 (d, J=2.02 Hz, 1H), 5.87 (s, 1H), 4.66 (tt, J=4.04, 7.96 Hz, 1H), 4.19 (d, J=5.05 Hz, 2H), 3.73-3.89 (m, 2H), 3.51 (ddd, J=3.03, 8.59, 11.62 Hz, 2H), 2.31 (s, 3H), 2.16 (s, 3H), 2.07 (s, 3H), 1.86-2.00 (m, 2H), 1.49-1.66 (m, 2H). MS(ES) [M+H]+ 405.1.

reactant | 5-chloro-2-methyl-3-((tetrahydro-2H-pyran-4-yl)oxy)benzoic acid | 0.266 mmol, 72.0 mg | ClC=1C=C(C(=C(C(=O)O)C1)C)OC1CCOCC1 | C13H15ClO4
reactant | 3-(aminomethyl)-2,6-dimethylpyridin -4(1H)-one hydrochloride | 0.319 mmol, 60.2 mg | Cl.NCC1=C(NC(=CC1=O)C)C
reactant | EDC | 0.399 mmol, 76 mg
reactant | HOAt | 0.399 mmol, 61.5 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | N-methylmorpholine | 3.19 mmol, 0.351 mL | CN1CCOCC1 | C5H11NO
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 5-chloro-N-((2,6-dimethyl-4-oxo -1,4-dihydropyridin-3-yl)methyl)-2-methyl-3-((tetrahydro-2H-pyran-4-yl)oxy)benzamide | 0.121 mmol, 49 mg, 45.5% yield | ClC=1C=C(C(=C(C(=O)NCC2=C(NC(=CC2=O)C)C)C1)C)OC1CCOCC1 | C21H25ClN2O4
